US09145433B2
Analogous to the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole,6-(-2-chloropyridin-3-yl)-1-methyl-1H-indazole was prepared by heating the mixture of 6-bromo-1-methyl-1H-indazole (2.0 g, 9.5 mmol), 2-chloro-3-pyridine boronic acid pinacol ester (2.2 g, 9.4 mmol), Pd(PPh3)4 (0.54 g, 0.46 mmol) and 2M aq. Na2CO3 (14 mL, 28 mmol) in 1,4-dioxane (75 mL) under argon atmosphere for 12 h. Upon extractive work-up as discussed in the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole with CH2Cl2 and purification of the concentrate by flash silica gel column chromatography (Combiflash® companion System® with RediSep® silica gel column 40 g, 30-50% EtOAC/hexanes eluting solvent gradient upon dry loading the concentrate absorbed on silica gel) provided 6-(-2-chloropyridin-3-yl)-1-methyl-1H-indazole as a white solid (1.8 g, 77%). 1H NMR (DMSO-d6): δ 8.45 (dd, 1H, J=1.7 and 4.7 Hz), 8.09 (s, 1H), 7.94 (dd, 1H, J=2.0 and 7.6 Hz), 7.82 (d, 1H, J=8.5 Hz), 7.74 (s, 1H), 7.54 (dd, 1H, J=4.7 and 7.6 Hz),7.22 (d, 1H, J=8.5 Hz), 4.06 (s, 3H).LCMS: rt 6.80 min (A), purity 97%, MS (m/e) 244 (MH+)

reactant | 6-bromo-1-methyl-1H-indazole | 9.5 mmol, 2.0 g | BrC1=CC=C2C=NN(C2=C1)C | C8H7BrN2
reactant | 2-chloro-3-pyridine boronic acid pinacol ester | 9.4 mmol, 2.2 g | ClC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C11H15BClNO2
reactant | Na2CO3 | 28 mmol, 2M, 14 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-(2-chloropyridin-3-yl)-1H-indazole | ClC1=NC=CC=C1C=1C=C2C=NNC2=CC1 | C12H8ClN3
solvent | 1,4-dioxane | 75 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.46 mmol, 0.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-(-2-chloropyridin-3-yl)-1-methyl-1H-indazole | 1.8 g, 77% | ClC1=NC=CC=C1C1=CC=C2C=NN(C2=C1)C | C13H10ClN3
